* Thu Oct 29 20:49:59 2015, Generated by: 010328058, Server: None, Windows, INSTALLED_SOFTWARE_VERSION: 2015.07 Build 6, Engine: 2015.07rc1, GUI: 2015.07rc1
* Transfer Net sheet1 , Driver IO1
* Mon Jul 20 2015 2015.07rc1 , Copyright (c) Signal Integrity Software, Inc.
*
* Interface File C:\Myproject\PCI\interfaces\PCI_AD\PCI_AD.edk
* Log File     generate_spice.log
*
** #PARAM TRANSFER_NET sheet1
** #PARAM SIMULATION_DEPTH SL_Pad/Pad
** #PARAM DUTY_CYCLE,
** #PARAM UNCORRELATED_ETCH,
** #PARAM SIMULATOR IsSpice4
** #PARAM DRIVER IO1
** #PARAM AC_NOISE +/-0.00V
** #PARAM AC_NOISE_SOURCE tnet
** #PARAM AGGRESSORS 0
** #PARAM DRIVER_MODEL IBIS
** #PARAM RECEIVER_MODEL IBIS
** #PARAM SUB_CIRCUIT sheet1.tsc
** #PARAM CORNER FFFE
** #PARAM $T1:DELAY 4in
** #PARAM $T2:DELAY 1.5in
** #PARAM $T4:DELAY 1.5in
** #PARAM UI 15n
*
.probe/csdf
.option temp= 0.
Vv_stimulus v_stimulus 0 pwlb( 0.000n 0v
+ 15.000n 0v 15.0460n .46 15.0480n .48 15.0490n .49 15.0510n .51 15.0520n .52 15.0530n .54 15.100n 1v
+ 30.000n 1v 30.0460n .54 30.0480n .52 30.0490n .51 30.0510n .49 30.0520n .48 30.0530n .46 30.100n 0v
+ 45.000n 0v 45.0460n .46 45.0480n .48 45.0490n .49 45.0510n .51 45.0520n .52 45.0530n .54 45.100n 1v
+ 60.000n 1v 60.0460n .54 60.0480n .52 60.0490n .51 60.0510n .49 60.0520n .48 60.0530n .46 60.100n 0v
+ 75.000n 0v 75.0460n .46 75.0480n .48 75.0490n .49 75.0510n .51 75.0520n .52 75.0530n .54 75.100n 1v
+ 90.000n 1v 90.0460n .54 90.0480n .52 90.0490n .51 90.0510n .49 90.0520n .48 90.0530n .46 90.100n 0v
+ 105.000n 0v 105.0460n .46 105.0480n .48 105.0490n .49 105.0510n .51 105.0520n .52 105.0530n .54 105.100n 1v
+ 120.000n 1v 120.0460n .54 120.0480n .52 120.0490n .51 120.0510n .49 120.0520n .48 120.0530n .46 120.100n 0v
+ 135.000n 0v 135.0460n .46 135.0480n .48 135.0490n .49 135.0510n .51 135.0520n .52 135.0530n .54 135.100n 1v
+ 150.000n 1v 150.0460n .54 150.0480n .52 150.0490n .51 150.0510n .49 150.0520n .48 150.0530n .46 150.100n 0v
+ 165.000n 0v 165.0460n .46 165.0480n .48 165.0490n .49 165.0510n .51 165.0520n .52 165.0530n .54 165.100n 1v
+ 180.000n 1v 180.0460n .54 180.0480n .52 180.0490n .51 180.0510n .49 180.0520n .48 180.0530n .46 180.100n 0v
+ 195.000n 0v 195.0460n .46 195.0480n .48 195.0490n .49 195.0510n .51 195.0520n .52 195.0530n .54 195.100n 1v
+ 210.000n 1v 210.0460n .54 210.0480n .52 210.0490n .51 210.0510n .49 210.0520n .48 210.0530n .46 210.100n 0v
+ 225.000n 0v 225.0460n .46 225.0480n .48 225.0490n .49 225.0510n .51 225.0520n .52 225.0530n .54 225.100n 1v
+ 240.000n 1v 240.0460n .54 240.0480n .52 240.0490n .51 240.0510n .49 240.0520n .48 240.0530n .46 240.100n 0v 255.000n 0v )
** #PARAM PATTERN default_clock
.tran 20pS 259nS
Vone one 0 DC 1.
Vzero zero 0 DC 0.
Rone one 0 1.
Rzero zero 0 1.e-5
.options Minstep=20p
VTimeStep TimeStep 0 DC 1.
TTimeStep TimeStep 0 0 0 Zo=50. TD=40p
* options
* options from: C:\SiSoft\2015.07\etc\defaults\default_isspice4_options.inc
.options Itl1=500
.options Itl4=500
.options ICSTEP=40
.options autotol=2
.options ACCT
* options from: C:\Myproject\PCI\managed_data\project_defaults\isspice4_options.inc
*File C:\Myproject\PCI\managed_data\project_defaults\isspice4_options.inc
*
*
Vvssq_IO1 vssq_IO1 0 DC 0.
Vvddq_IO1 vddq_IO1 0 DC 3.465
Ven_IO1 en_IO1 0 1.
RIO1 IO1_pin IO1_pkg .08
LIO1 IO1_pkg IO1_pad 500p
CIO1 IO1_pin 0 500f
* Buffer IO1 fast driver, stratix2.ibs StratixII 2s_pcix33_cio AD AddressData 3.465 0. port3
*
RIO1_z IO1_z 0 1Meg
XIO1 vddq_IO1 vssq_IO1 IO1_pad v_stimulus en_IO1 IO1_z
+ vddq_IO1 vssq_IO1
+ stratix2_2s_pcix33_cio_FF
*
*
*
Vvssq_Controller vssq_Controller 0 DC 0.
Vvddq_Controller vddq_Controller 0 DC 3.465
RVen_Controller en_Controller 0 1.e-6
RController Controller_pin Controller_pkg .08
LController Controller_pkg Controller_pad 500p
CController Controller_pin 0 500f
* Buffer Controller fast receiver, stratix2.ibs StratixII 2s_pcix33_cio AD AddressData 3.465 0. port1
*
RController_z Controller_z 0 1Meg
XController vddq_Controller vssq_Controller Controller_pad v_stimulus en_Controller Controller_z
+ vddq_Controller vssq_Controller
+ stratix2_2s_pcix33_cio_FF
*
*
*
Vvssq_IO0 vssq_IO0 0 DC 0.
Vvddq_IO0 vddq_IO0 0 DC 3.465
RVen_IO0 en_IO0 0 1.e-6
RIO0 IO0_pin IO0_pkg .08
LIO0 IO0_pkg IO0_pad 500p
CIO0 IO0_pin 0 500f
* Buffer IO0 fast passive, stratix2.ibs StratixII 2s_pcix33_cio AD AddressData 3.465 0. port2
*
RIO0_z IO0_z 0 1Meg
XIO0 vddq_IO0 vssq_IO0 IO0_pad v_stimulus en_IO0 IO0_z
+ vddq_IO0 vssq_IO0
+ stratix2_2s_pcix33_cio_FF
*
*#save v(v_stimulus)
*#save v(IO1_pad)
*#save v(Controller_pad)
*#save v(IO0_pad)
*#save v(IO1_pin)
*#save v(Controller_pin)
*#save v(IO0_pin)
*#save v(Controller_z)
.SUBCKT stratix2_2s_pcix33_cio_FF PU_REF PD_REF PAD A EN Z PC_REF GC_REF
*
*
* C_comp
CCOMP PAD GC_REF +3.00000E-12 IC=0
*
RA A 0 1Meg
VINIT Vini 0    dc 200n
RETIR ETR  Vini 1G
CETR  ETR  0    1n
BETR  0    ETR  I= Time < 40p ? 0. : 1n
RETIF ETF  Vini 1G
CETF  ETF  0    1n
BETF  0    ETF  I= Time < 40p ? 0. : 1n
RETR ETR 0 R= V(A) > .5 ? 1G  : .02
RETF ETF 0 R= V(A) > .5 ? .02 : 1G
* Input Receiver
BZ Z 0 V= V(PAD) > 1.320 ? 1.0 : 0.0
RZZ Z  0 1MEG
*
* Ground Clamp Structure;
XGC GC_Current 0 PAD GC_REF GND_CLAMP
BGC PAD GC_REF I= V(GC_Current)
*
* Power Clamp Structure;
XPC PC_Current 0 PC_REF PAD POWER_CLAMP
BPC PAD PC_REF I= V(PC_Current)
*
* Pull Down Structure;
AKT_PD_R ETR KT_PD_R KT_PD_R_T
AKT_PD_F ETF KT_PD_F KT_PD_F_T
.model KT_PD_R_T pwl2(
+ xy_array = [ 0. 1. 9.5p 1. 47.5p 1.001 66.5p 1.002 80.75p 1.003 90.25p 1.006 99.75p 1.007 123.5p .998 133p 1.001 142.5p .99 152p .978
+ 161.5p .965 171p .948 179.55p .924 187.15p .897 194.75p .864 202.35p .823 209.95p .775 218.5p .718 228p .64 237.5p .549
+ 247p .445 256.5p .329 266p .233 274.55p .151 282.15p .098 289.75p .064 296.083p .045 302.417p .036 311.917p .04 318.25p .043
+ 327.75p .044 333.179p .053 338.607p .051 344.036p .048 349.125p .06 358.625p .057 365.75p .059 372.875p .079 380p .065 387.125p .085
+ 394.25p .08 401.375p .063 408.5p .102 415.625p .068 422.75p .07 428.179p .071 439.036p .073 444.917p .075 451.25p .082 457.583p .087
+ 467.083p .084 473.417p .074 479.75p .071 486.083p .097 492.417p .075 498.75p .065 505.083p .073 511.417p .06 517.75p .046 525.35p .053
+ 532.95p .04 544.35p .037 551.95p .028 560.5p .029 570p .022 579.5p .019 589p .016 598.5p .013 608p .011 617.5p .01
+ 627p .009 636.5p .007 646p .006 660.25p .005 674.5p .004 688.75p .003 731.5p .002 826.5p 397.961u 964.25p 823.73u 969p 824.016u
+ 973.75p 0. 100.974n 0. ]  )
.model KT_PD_F_T pwl2(
+ xy_array = [ 0. .007 4.75p 1. 9.5p .002 47.5p -.001 61.75p -.002 71.25p -.007 80.75p -.011 90.25p -.017 99.75p -.024 109.25p -.033 118.75p -.038 128.25p -.043
+ 137.75p -.044 152p -.043 161.5p -.038 171p -.035 179.55p -.033 187.15p -.029 194.75p -.028 206.15p -.027 218.5p -.025 232.75p -.023
+ 242.25p -.018 251.75p -.011 261.25p .001 270.75p .017 278.35p .056 285.95p .073 292.917p .145 299.25p .179 305.583p .2 311.917p .291
+ 318.25p .345 324.583p .367 330.464p .425 335.893p .461 341.322p .495 346.75p .534 353.875p .586 361p .622 368.125p .681 375.25p .694
+ 382.375p .691 389.5p .744 396.625p .754 406.125p .769 413.25p .781 420.375p .782 425.464p .797 430.893p .802 436.321p .803 441.75p .81
+ 448.083p .83 454.417p .842 460.75p .847 467.083p .842 473.417p .84 479.75p .893 486.083p .845 492.417p .881 498.75p .897 505.083p .888
+ 511.417p .909 517.75p .928 525.35p .916 532.95p .935 540.55p .937 548.15p .945 555.75p .959 565.25p .958 574.75p .967 584.25p .971
+ 593.75p .977 603.25p .979 612.75p .984 622.25p .986 631.75p .988 641.25p .99 650.75p .992 660.25p .993 669.75p .994 684p .995
+ 703p .997 726.75p .998 764.75p .999 888.25p 1. 964.25p 1. 969p 1. 973.75p 1. 100.974n 1. ] )
*
BPD PAD PD_REF I= V(EN) < .5 ? 0 : ; Off
+ V(A) > .5 ? V(PD_Current)*V(KT_PD_R) : V(PD_Current)*V(KT_PD_F)
XPD PD_Current 0 PAD PD_REF PULL_DOWN
*
* Pullup Structure;
AKT_PU_R ETR KT_PU_R KT_PU_R_T
AKT_PU_F ETF KT_PU_F KT_PU_F_T
.model KT_PU_R_T pwl2(
+ xy_array = [ 0. 0. 4.75p 0. 9.5p -231.027u 66.5p .001 104.5p -689.885u 114p -.002 123.5p -.005 133p -.007 142.5p -.01 152p -.013 161.5p -.016 171p -.019
+ 179.55p -.024 187.15p -.027 194.75p -.03 202.35p -.033 209.95p -.035 218.5p -.037 228p -.039 256.5p -.037 266p -.034 278.35p -.033
+ 285.95p -.031 299.25p -.03 305.583p -.029 311.917p -.02 318.25p -.016 324.583p -.014 330.464p 173.406u 335.893p .008 341.322p .01 346.75p .02
+ 353.875p .051 361p .055 368.125p .108 375.25p .138 382.375p .155 389.5p .234 396.625p .254 403.75p .293 410.875p .37 418p .393
+ 425.464p .452 430.893p .491 436.321p .525 441.75p .558 448.083p .599 454.417p .645 460.75p .685 467.083p .715 473.417p .734 479.75p .759
+ 486.083p .82 498.75p .828 505.083p .859 511.417p .861 517.75p .862 525.35p .889 532.95p .886 540.55p .897 548.15p .899 555.75p .892
+ 565.25p .905 574.75p .903 584.25p .908 593.75p .911 608p .93 617.5p .919 627p .936 636.5p .939 646p .947 655.5p .95
+ 665p .957 674.5p .96 684p .965 693.5p .969 703p .974 712.5p .975 722p .979 731.5p .981 741p .984 750.5p .987
+ 760p .989 769.5p .99 779p .992 788.5p .993 798p .995 845.5p .997 883.5p 1. 893p 1.001 902.5p .998 912p .997
+ 921.5p .999 931p 1.001 940.5p .998 959.5p 1.002 964.25p 1.002 969p 1.003 973.75p 1. 100.974n 1. ] )
.model KT_PU_F_T pwl2(
+ xy_array = [ 0. 1. 9.5p 1.003 47.5p .999 61.75p .997 71.25p .978 80.75p .967 90.25p .945 99.75p .912 109.25p .854 118.75p .786 128.25p .694
+ 137.75p .579 147.25p .463 156.75p .367 166.25p .257 175.75p .198 183.35p .146 190.95p .106 198.55p .077 206.15p .058 213.75p .047
+ 223.25p .042 237.5p .046 251.75p .048 261.25p .051 270.75p .046 278.35p .075 285.95p .061 292.917p .093 299.25p .085 305.583p .06
+ 311.917p .104 318.25p .099 324.583p .06 330.464p .063 335.893p .056 344.036p .058 349.125p .069 356.25p .075 363.375p .052 370.5p .109
+ 377.625p .055 384.75p .032 391.875p .067 399p .036 406.125p .044 413.25p .042 420.375p .026 425.464p .034 430.893p .031 436.321p .023
+ 441.75p .019 448.083p .022 454.417p .018 460.75p .015 473.417p .012 482.917p .01 495.583p .008 514.583p .005 540.55p .003 589p .001
+ 964.25p -178.415u 969p -180.651u 973.75p 0. 100.974n 0. ] )
*
BPU PAD PU_REF I= V(EN) < .5 ? 0 : ; Off
+ V(A) > .5 ? V(PU_Current)*V(KT_PU_R) : V(PU_Current)*V(KT_PU_F)
XPU PU_Current 0 PU_REF PAD PULL_UP
*
* Ground Clamp IV;
.SUBCKT GND_CLAMP PAD_OUT GC_OUT PAD_IN GC_IN
* Connections     Out+ Out In+ In
AGndClamp %vd(PAD_IN,GC_IN) %vd(PAD_OUT,GC_OUT) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 -3.10900E+00
+ -3.30000E+00 -3.10900E+00
+ -3.10500E+00 -2.86200E+00
+ -2.91000E+00 -2.61500E+00
+ -2.71500E+00 -2.36860E+00
+ -2.52000E+00 -2.12100E+00
+ -2.32500E+00 -1.87460E+00
+ -2.13000E+00 -1.62700E+00
+ -1.93500E+00 -1.38120E+00
+ -1.74000E+00 -1.13500E+00
+ -1.54500E+00 -8.90260E-01
+ -1.49000E+00 -8.21300E-01
+ -1.43500E+00 -7.52650E-01
+ -1.38000E+00 -6.84000E-01
+ -1.32500E+00 -6.15700E-01
+ -1.27000E+00 -5.47600E-01
+ -1.21500E+00 -4.79760E-01
+ -1.16000E+00 -4.12400E-01
+ -1.10500E+00 -3.45550E-01
+ -1.05000E+00 -2.79500E-01
+ -9.95000E-01 -2.14540E-01
+ -9.40000E-01 -1.51600E-01
+ -8.85000E-01 -9.24920E-02
+ -8.30000E-01 -4.05600E-02
+ -7.75000E-01 -1.33550E-02
+ -7.20000E-01 -7.23800E-03
+ -6.65000E-01 -4.02160E-03
+ -6.10000E-01 -1.83600E-03
+ -5.55000E-01 -6.25600E-04
+ -5.00000E-01 -1.61400E-04
+ -4.45000E-01 -3.54290E-05
+ -3.90000E-01 -6.98400E-06
+ -3.35000E-01 -1.23550E-06
+ -2.80000E-01 -1.99500E-07
+ -2.25000E-01 -3.05890E-08
+ -1.70000E-01 -5.03600E-09
+ -1.15000E-01 -1.97900E-09
+ -6.00000E-02 -1.97900E-09
+ -5.00000E-03 -1.97900E-09
+ +5.00000E-02 -1.97900E-09
+ +1.05000E-01 -1.97900E-09
+ +1.60000E-01 -1.97900E-09
+ +2.15000E-01 -1.97900E-09
+ +2.70000E-01 -1.97900E-09
+ +3.25000E-01 -1.97900E-09
+ +3.80000E-01 -1.97900E-09
+ +4.35000E-01 -1.97900E-09
+ +4.90000E-01 -1.97900E-09
+ +5.45000E-01 -1.97900E-09
+ +6.00000E-01 -1.97900E-09
+ +6.55000E-01 -1.97900E-09
+ +7.10000E-01 -1.97900E-09
+ +7.65000E-01 -1.97900E-09
+ +8.20000E-01 -1.97900E-09
+ +8.75000E-01 -1.97900E-09
+ +9.30000E-01 -1.97900E-09
+ +9.85000E-01 +1.22080E-09
+ +1.04000E+00 +1.32200E-09
+ +1.09500E+00 +1.42450E-09
+ +1.15000E+00 +1.52700E-09
+ +1.20500E+00 +1.62870E-09
+ +1.26000E+00 +1.73000E-09
+ +1.31500E+00 +1.83200E-09
+ +1.37000E+00 +1.93400E-09
+ +1.42500E+00 +2.03570E-09
+ +1.48000E+00 +2.13700E-09
+ +1.53500E+00 +2.23900E-09
+ +1.59000E+00 +2.34100E-09
+ +1.64500E+00 +2.44170E-09
+ +1.70000E+00 +2.54300E-09
+ +1.89500E+00 +2.90250E-09
+ +2.09000E+00 +3.26000E-09
+ +2.28500E+00 +3.61710E-09
+ +2.48000E+00 +3.97200E-09
+ +2.67500E+00 +4.32600E-09
+ +2.87000E+00 +4.67800E-09
+ +3.06500E+00 +5.02700E-09
+ +3.26000E+00 +5.37300E-09
+ +3.45500E+00 +5.71390E-09
+ +4.45500E+00 +5.71390E-09
+ ] )
.ENDS GND_CLAMP
*
* Power Clamp IV;
.SUBCKT POWER_CLAMP PAD_OUT PC_OUT PC_IN PAD_IN
* Connections       Out+ Out In+ In
APwrClamp %vd(PC_IN,PAD_IN) %vd(PAD_OUT,PC_OUT) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 +5.31500E-01
+ -3.30000E+00 +5.31500E-01
+ -3.10500E+00 +4.94550E-01
+ -2.91000E+00 +4.57400E-01
+ -2.71500E+00 +4.19840E-01
+ -2.52000E+00 +3.81900E-01
+ -2.32500E+00 +3.43510E-01
+ -2.13000E+00 +3.04500E-01
+ -1.93500E+00 +2.65020E-01
+ -1.74000E+00 +2.24900E-01
+ -1.54500E+00 +1.84050E-01
+ -1.49000E+00 +1.72400E-01
+ -1.43500E+00 +1.60680E-01
+ -1.38000E+00 +1.48900E-01
+ -1.32500E+00 +1.37100E-01
+ -1.27000E+00 +1.25200E-01
+ -1.21500E+00 +1.13270E-01
+ -1.16000E+00 +1.01200E-01
+ -1.10500E+00 +8.91350E-02
+ -1.05000E+00 +7.69700E-02
+ -9.95000E-01 +6.47930E-02
+ -9.40000E-01 +5.27300E-02
+ -8.85000E-01 +4.09270E-02
+ -8.30000E-01 +2.97100E-02
+ -7.75000E-01 +1.98440E-02
+ -7.20000E-01 +1.25600E-02
+ -6.65000E-01 +7.65780E-03
+ -6.10000E-01 +4.10900E-03
+ -5.55000E-01 +1.76640E-03
+ -5.00000E-01 +5.74400E-04
+ -4.45000E-01 +1.46350E-04
+ -3.90000E-01 +3.19700E-05
+ -3.35000E-01 +6.13280E-06
+ -2.80000E-01 +1.04100E-06
+ -2.25000E-01 +1.63540E-07
+ -1.70000E-01 +2.81800E-08
+ -1.15000E-01 +9.00590E-09
+ -6.00000E-02 +6.42600E-09
+ -5.00000E-03 +6.01200E-09
+ +9.95000E-01 +6.01200E-09
+ ] )
.ENDS POWER_CLAMP
*
* Pull Down IV;
.SUBCKT PULL_DOWN PD_Current    REF   PAD   PD_REF
* Connections     Out+ Out In+ In
APullDown %vd(PAD,PD_REF) %vd(PD_Current,REF) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 -1.48000E-01
+ -3.30000E+00 -1.48000E-01
+ -3.10500E+00 -1.49560E-01
+ -2.91000E+00 -1.51000E-01
+ -2.71500E+00 -1.50690E-01
+ -2.52000E+00 -1.52000E-01
+ -2.32500E+00 -1.52000E-01
+ -2.13000E+00 -1.51000E-01
+ -1.93500E+00 -1.48370E-01
+ -1.74000E+00 -1.45000E-01
+ -1.54500E+00 -1.39240E-01
+ -1.49000E+00 -1.37800E-01
+ -1.43500E+00 -1.35880E-01
+ -1.38000E+00 -1.34000E-01
+ -1.32500E+00 -1.31900E-01
+ -1.27000E+00 -1.29700E-01
+ -1.21500E+00 -1.27390E-01
+ -1.16000E+00 -1.24900E-01
+ -1.10500E+00 -1.22250E-01
+ -1.05000E+00 -1.19300E-01
+ -9.95000E-01 -1.16370E-01
+ -9.40000E-01 -1.13100E-01
+ -8.85000E-01 -1.09630E-01
+ -8.30000E-01 -1.05940E-01
+ -7.75000E-01 -1.04660E-01
+ -7.20000E-01 -1.00360E-01
+ -6.65000E-01 -9.53450E-02
+ -6.10000E-01 -8.96540E-02
+ -5.55000E-01 -8.32650E-02
+ -5.00000E-01 -7.62790E-02
+ -4.45000E-01 -6.89200E-02
+ -3.90000E-01 -6.13030E-02
+ -3.35000E-01 -5.34560E-02
+ -2.80000E-01 -4.53700E-02
+ -2.25000E-01 -3.70360E-02
+ -1.70000E-01 -2.84400E-02
+ -1.15000E-01 -1.95610E-02
+ -6.00000E-02 -1.03800E-02
+ -5.00000E-03 -8.80060E-04
+ +5.00000E-02 +8.60400E-03
+ +1.05000E-01 +1.75780E-02
+ +1.60000E-01 +2.60700E-02
+ +2.15000E-01 +3.41010E-02
+ +2.70000E-01 +4.17000E-02
+ +3.25000E-01 +4.88690E-02
+ +3.80000E-01 +5.56500E-02
+ +4.35000E-01 +6.20460E-02
+ +4.90000E-01 +6.80800E-02
+ +5.45000E-01 +7.37680E-02
+ +6.00000E-01 +7.91300E-02
+ +6.55000E-01 +8.41710E-02
+ +7.10000E-01 +8.89100E-02
+ +7.65000E-01 +9.33690E-02
+ +8.20000E-01 +9.75400E-02
+ +8.75000E-01 +1.01450E-01
+ +9.30000E-01 +1.05100E-01
+ +9.85000E-01 +1.08500E-01
+ +1.04000E+00 +1.11700E-01
+ +1.09500E+00 +1.14550E-01
+ +1.15000E+00 +1.17200E-01
+ +1.20500E+00 +1.19420E-01
+ +1.26000E+00 +1.21300E-01
+ +1.31500E+00 +1.22800E-01
+ +1.37000E+00 +1.24000E-01
+ +1.42500E+00 +1.24920E-01
+ +1.48000E+00 +1.25700E-01
+ +1.53500E+00 +1.26350E-01
+ +1.59000E+00 +1.26900E-01
+ +1.64500E+00 +1.27380E-01
+ +1.70000E+00 +1.27800E-01
+ +1.89500E+00 +1.29050E-01
+ +2.09000E+00 +1.30000E-01
+ +2.28500E+00 +1.30670E-01
+ +2.48000E+00 +1.31400E-01
+ +2.67500E+00 +1.31950E-01
+ +2.87000E+00 +1.32500E-01
+ +3.06500E+00 +1.33070E-01
+ +3.26000E+00 +1.33600E-01
+ +3.45500E+00 +1.34190E-01
+ +3.65000E+00 +1.34900E-01
+ +3.84500E+00 +1.35870E-01
+ +4.04000E+00 +1.36970E-01
+ +4.23500E+00 +1.38370E-01
+ +4.43000E+00 +1.40190E-01
+ +4.62500E+00 +1.42400E-01
+ +4.82000E+00 +1.45200E-01
+ +5.01500E+00 +1.48440E-01
+ +5.21000E+00 +1.52500E-01
+ +5.40500E+00 +1.57180E-01
+ +5.60000E+00 +1.62600E-01
+ +5.79500E+00 +1.68800E-01
+ +5.99000E+00 +1.75900E-01
+ +6.18500E+00 +1.83900E-01
+ +6.38000E+00 +1.92700E-01
+ +6.57500E+00 +2.02500E-01
+ +6.60000E+00 +2.03800E-01
+ +7.60000E+00 +2.03800E-01
+ ] )
.ENDS PULL_DOWN
*
* Pull Up IV;
.SUBCKT PULL_UP PU_Current REF PU_REF PAD
* Connections   Out+ Out In+ In
APullUp %vd(PU_REF,PAD) %vd(PU_Current,REF) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 +2.23300E-01
+ -3.30000E+00 +2.23300E-01
+ -3.10500E+00 +2.18060E-01
+ -2.91000E+00 +2.10000E-01
+ -2.71500E+00 +2.00380E-01
+ -2.52000E+00 +1.89700E-01
+ -2.32500E+00 +1.77990E-01
+ -2.13000E+00 +1.65700E-01
+ -1.93500E+00 +1.52720E-01
+ -1.74000E+00 +1.39300E-01
+ -1.54500E+00 +1.25560E-01
+ -1.49000E+00 +1.21600E-01
+ -1.43500E+00 +1.17540E-01
+ -1.38000E+00 +1.13600E-01
+ -1.32500E+00 +1.09550E-01
+ -1.27000E+00 +1.05500E-01
+ -1.21500E+00 +1.01380E-01
+ -1.16000E+00 +9.74000E-02
+ -1.10500E+00 +9.32150E-02
+ -1.05000E+00 +8.90300E-02
+ -9.95000E-01 +8.47820E-02
+ -9.40000E-01 +8.06700E-02
+ -8.85000E-01 +7.64220E-02
+ -8.30000E-01 +7.21900E-02
+ -7.75000E-01 +6.81440E-02
+ -7.20000E-01 +6.42300E-02
+ -6.65000E-01 +6.03080E-02
+ -6.10000E-01 +5.61710E-02
+ -5.55000E-01 +5.17620E-02
+ -5.00000E-01 +4.70660E-02
+ -4.45000E-01 +4.21720E-02
+ -3.90000E-01 +3.71680E-02
+ -3.35000E-01 +3.20910E-02
+ -2.80000E-01 +2.69390E-02
+ -2.25000E-01 +2.17450E-02
+ -1.70000E-01 +1.65000E-02
+ -1.15000E-01 +1.12040E-02
+ -6.00000E-02 +5.86700E-03
+ -5.00000E-03 +4.90290E-04
+ +5.00000E-02 -4.83600E-03
+ +1.05000E-01 -1.00010E-02
+ +1.60000E-01 -1.49900E-02
+ +2.15000E-01 -1.98210E-02
+ +2.70000E-01 -2.45000E-02
+ +3.25000E-01 -2.90100E-02
+ +3.80000E-01 -3.33700E-02
+ +4.35000E-01 -3.75760E-02
+ +4.90000E-01 -4.16300E-02
+ +5.45000E-01 -4.55320E-02
+ +6.00000E-01 -4.92900E-02
+ +6.55000E-01 -5.29110E-02
+ +7.10000E-01 -5.63800E-02
+ +7.65000E-01 -5.97140E-02
+ +8.20000E-01 -6.29100E-02
+ +8.75000E-01 -6.59650E-02
+ +9.30000E-01 -6.88900E-02
+ +9.85000E-01 -7.16810E-02
+ +1.04000E+00 -7.43400E-02
+ +1.09500E+00 -7.68710E-02
+ +1.15000E+00 -7.92700E-02
+ +1.20500E+00 -8.15500E-02
+ +1.26000E+00 -8.37100E-02
+ +1.31500E+00 -8.57410E-02
+ +1.37000E+00 -8.76500E-02
+ +1.42500E+00 -8.94520E-02
+ +1.48000E+00 -9.11300E-02
+ +1.53500E+00 -9.26900E-02
+ +1.59000E+00 -9.41400E-02
+ +1.64500E+00 -9.54810E-02
+ +1.70000E+00 -9.67100E-02
+ +1.89500E+00 -1.00250E-01
+ +2.09000E+00 -1.02800E-01
+ +2.28500E+00 -1.04680E-01
+ +2.48000E+00 -1.06100E-01
+ +2.67500E+00 -1.07250E-01
+ +2.87000E+00 -1.08300E-01
+ +3.06500E+00 -1.09080E-01
+ +3.26000E+00 -1.09900E-01
+ +3.45500E+00 -1.10610E-01
+ +3.65000E+00 -1.11200E-01
+ +3.84500E+00 -1.11800E-01
+ +4.04000E+00 -1.12270E-01
+ +4.23500E+00 -1.12790E-01
+ +4.43000E+00 -1.13340E-01
+ +4.62500E+00 -1.13770E-01
+ +4.82000E+00 -1.14200E-01
+ +5.01500E+00 -1.14700E-01
+ +5.21000E+00 -1.15200E-01
+ +5.40500E+00 -1.16000E-01
+ +5.60000E+00 -1.16000E-01
+ +5.79500E+00 -1.17000E-01
+ +5.99000E+00 -1.17000E-01
+ +6.18500E+00 -1.18370E-01
+ +6.38000E+00 -1.20000E-01
+ +6.57500E+00 -1.20440E-01
+ +6.60000E+00 -1.21000E-01
+ +7.60000E+00 -1.21000E-01
+ ] )
.ENDS PULL_UP
*
.ENDS stratix2_2s_pcix33_cio_FF
*File C:\Myproject\PCI\interfaces\PCI_AD\pre_subckts\sheet1.tsc
*
.SUBCKT sheet1_tsc port2 port3 port1
YT2_1 port2 0 node2 0 N=1 RLGCmodel=YT2_1 L=1
YT1_2 port1 0 node2 0 N=1 RLGCmodel=YT1_2 L=1
YT3_3 node2 0 node1 0 N=1 RLGCmodel=YT3_3 L=1
YT4_4 port3 0 node1 0 N=1 RLGCmodel=YT4_4 L=1
.ENDS sheet1_tsc
Xsheet1_tsc IO0_PIN IO1_PIN CONTROLLER_PIN sheet1_tsc
.model YT2_1 W MODELTYPE=RLGC N=1 Lo = 15.236n Co = 3.876p
.model YT1_2 W MODELTYPE=RLGC N=1 Lo = 35.64n Co = 11.782p
.model YT3_3 W MODELTYPE=RLGC N=1 Lo = 10.692n Co = 2.455p
.model YT4_4 W MODELTYPE=RLGC N=1 Lo = 15.236n Co = 3.876p
.END
